US07291615B2
(28a). Preparation of ethyl 3-(2-amino-3,5-bis(trifluoromethyl)phenylamino)-3-oxopropanoate.
An ice-cold solution of 3,5-bis(trifluoromethyl)-1,2-phenylenediamine (880 mg, 3.6 mmol) and pyridine (104 mg, 1.3 mmol) in methylene chloride (20 mL) was treated with ethyl 3-chloro-3-oxopropionate (181 mg, 1.2 mmol). The mixture was stirred at 0° C. for 3 h, then allowed to warm to room temperature and stirred for four days. The solution was diluted to 100 mL with methylene chloride, washed with saturated NH4Cl (3×20 mL), water (20 mL), and brine (20 mL), then dried over sodium sulfate and concentrated in-vacuo. The residue was purified over silica gel, eluting with 20%-30%-40% EtOAc/heptane, to yield 330 mg of a white solid as product. 1H NMR (500 MHz, DMSO) δ ppm 1.22 (t, J=7.15 Hz, 3 H) 3.52 (s, 2 H) 4.14 (q, J=7.15 Hz, 2 H) 6.16 (s, 2 H) 7.54 (s, 1 H) 7.71 (m, 1 H) 9.60 (s, 1 H).

reactant | 3,5-bis(trifluoromethyl)-1,2-phenylenediamine | 3.6 mmol, 880 mg | FC(C=1C(=C(C=C(C1)C(F)(F)F)N)N)(F)F | C8H6F6N2
reactant | pyridine | 1.3 mmol, 104 mg | N1=CC=CC=C1 | C5H5N
reactant | ethyl 3-chloro-3-oxopropionate | 1.2 mmol, 181 mg | ClC(CC(=O)OCC)=O | C5H7ClO3
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | ethyl 3-(2-amino-3,5-bis(trifluoromethyl)phenylamino)-3-oxopropanoate | 330 mg | NC1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)NC(CC(=O)OCC)=O | C13H12F6N2O3
